US05498786
(S)-Methyl-2-phenylthiodecanoate
Following the procedure of Example 5, (R)-methyl 2-hydroxydecanoate (0.99 gm, 4.90 mmol) was converted to the triflate with triflic anhydride (0.95 ml, 5.65 mmol) and 2,6-lutidine (0.66 ml, 5.63 mmol). The triflate was displaced with thiophenol (0.62 ml, 5.88 mmol) in the presence of TEA (1.57 ml, 11.3 mmol). The desired (S)-methyl-2-phenylthiodecanoate (1.48 g) was purified by silica gel chromatography (1.00 gm, 3.39 mmol, 69%). [α]D =-101.2° (c=1, MeOH). 1H NMR δ7.41 (m, 2H), 7.25 (m, 3H), 3.63 (dd, 1H, J=6.8,8.3 Hz), 3.62 (s, 3H), 1.86 (m, 1H), 1.74 (m, 1H), 1.43-1.24 (m, 12H), 0.86 (t, 3H, J=6.8 Hz).

reactant | (R)-methyl 2-hydroxydecanoate | 4.90 mmol, 0.99 gm | O[C@@H](C(=O)OC)CCCCCCCC | C11H22O3
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | triflic anhydride | 5.65 mmol, 0.95 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2,6-lutidine | 5.63 mmol, 0.66 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | thiophenol | 5.88 mmol, 0.62 ml | C1(=CC=CC=C1)S | C6H6S
product | (S)-Methyl-2-phenylthiodecanoate | COC([C@@H](CCCCCCCC)C1=CC=CC=C1)=S | C17H26OS
